US04720297
Electrolytic iron powder (0.29 g) was suspended in 5% acetic acid (2 ml), and a solution of 3-ethoxycarbonylmethyl-6-fluoro-5-nitro-2(3H)-benzothiazolone (0.31 g) in acetic acid (1 ml) and ethyl acetate (1 ml) was dropwise added thereto while heating. The resultant mixture was heated under reflux for 3 hours. The reaction mixture was subjected to filtration with celite, and the filtrate was extracted with ethyl acetate. The extract was washed with water and sodium bicarbonate solution, dried and concentrated to give 0.20 g of 5-amino-3-ethoxycarbonylmethyl-6-fluoro-2(3H)-benzothiazolone. m.p., 172.5°-173.5° C.

reactant | 3-ethoxycarbonylmethyl-6-fluoro-5-nitro-2(3H)-benzothiazolone | 0.31 g | C(C)OC(=O)CN1C(SC2=C1C=C(C(=C2)F)[N+](=O)[O-])=O | C11H9FN2O5S
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 0.29 g | [Fe] | Fe
product | 5-amino-3-ethoxycarbonylmethyl-6-fluoro-2(3H)-benzothiazolone | 0.20 g | NC=1C(=CC2=C(N(C(S2)=O)CC(=O)OCC)C1)F | C11H11FN2O3S
